US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0806 g, 0.175 mmol) was dissolved in dichloromethane (2.0 mL), and the solution was treated with 4-dimethylaminopyridine (0.0850 g, 0.699 mmol) and dimethylcarbamoyl chloride (0.0640 mL, 0.699 mmol) to obtain 4-dimethylcarbamoyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0930 g, yield 99%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.175 mmol, 0.0806 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | dimethylcarbamoyl chloride | 0.699 mmol, 0.0640 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.699 mmol, 0.0850 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-dimethylcarbamoyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0930 g, yield 99% | CN(C(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)C | C30H36N4O5
